US06492383B1
(2-Methyl-1H-indol-5-yl)-[2-(4-morpholin-4-ylmethyl-phenyl)-thieno[3,2-b]pyridin-7-yl]amine
The title compound was prepared from 4-[7-(2-methyl-1H-Indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-benzaldehyde(60 mg, 0.156 mmol) and morpholine (82 mg, 0.939 mmol) by a procedure analogous to example 89. RP18-HPLC RT: 4.652 minutes; API MS: 454.59 (M+1).

reactant | 4-[7-(2-methyl-1H-Indol-5-ylamino)-thieno[3,2-b]pyridin-2-yl]-benzaldehyde | 0.156 mmol, 60 mg | CC=1NC2=CC=C(C=C2C1)NC1=C2C(=NC=C1)C=C(S2)C2=CC=C(C=O)C=C2 | C23H17N3OS
reactant | morpholine | 0.939 mmol, 82 mg | N1CCOCC1 | C4H9NO
product | (2-Methyl-1H-indol-5-yl)-[2-(4-morpholin-4-ylmethyl-phenyl)-thieno[3,2-b]pyridin-7-yl]amine | CC=1NC2=CC=C(C=C2C1)NC1=C2C(=NC=C1)C=C(S2)C2=CC=C(C=C2)CN2CCOCC2 | C27H26N4OS
